US07112582B2
Step 3: Preparation of 6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carbaldehyde:
To the stirred solution of 2,3-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-2-yl-methanol (2.08 g, 13.5 mmol) in 60 ml of CH3Cl was added 9.38 g of MnO2. Th suspension was refluxed for 2 hour under a nitrogen atmosphere. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated to give yellow oil. The product was purified by chromatography. 2.15 g of the product was obtained (78%).

reactant | 2,3-dihydro-5H-pyrazolo[5,1-b][1,3]oxazin-2-yl-methanol | 13.5 mmol, 2.08 g | N1C(CC2OCC=CN21)CO | C7H12N2O2
solvent | CH3Cl | 60 ml | CCl | CH3Cl
catalyst | MnO2 | 9.38 g | O=[Mn]=O
product | 6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carbaldehyde | 2.15 g | N1=C(C=C2OCCCN21)C=O | C7H8N2O2
